US07919504B2
To a 50 mL round bottom flask was added methyl phthalazine-5-carboxylate (1.0 g, 5 mmol), lithium hydroxide (0.3 g, 11 mmol), THF (4 mL) and water (4 mL). The resulting solution was stirred for 1 hour at room temperature. After removal of THF, the residue was acidified with 1N HCl until a precipitate was formed. The precipitate was filtered to provide phthalazine-5-carboxylic acid, used directly for next step. LCMS (M+H) 175.1 calc. for C9H7N2O2 175.0. 1H NMR (400 MHz, CDCl3): δ ppm 8.06 (d, J=8.41 Hz, 1H) 8.51-8.56 (d, 1H) 8.71 (d, 1H) 9.64 (s, 2H). Carboxylic acid H not detected.

reactant | methyl phthalazine-5-carboxylate | 5 mmol, 1.0 g | C1=NN=CC=2C(=CC=CC12)C(=O)OC | C10H8N2O2
reactant | lithium hydroxide | 11 mmol, 0.3 g | [OH-].[Li+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | phthalazine-5-carboxylic acid | C1=NN=CC=2C(=CC=CC12)C(=O)O | C9H6N2O2
